US07317125B2
Preparation of benzoic acid N′-[2-(5-fluoro-2′-isopropoxy-biphenyl-2-yloxy)-acetyl]-N′-isopropyl-hydrazide
A solution of benzoic acid N′-[2-(2-bromo-4-fluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide (50 mg, 0.122 mmol) in DME (3 ml)/2M Na2CO3 (0.215 ml, 0.427 mmol) was treated with 2-isopropoxylphenylboronic acid (32 mg, 0.183 mmol) and Pd[PPh3]4 (27 mg, 0.0244 mmol) for 12 hours at 90° C. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated. The crude was purified first on a silica gel column with 30% ethyl acetate/hexanes then by RP HPLC to afford the product as a white solid (22 mg, 38%). MS m/e 465.27 (M+H+)

reactant | benzoic acid N′-[2-(2-bromo-4-fluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide | 0.122 mmol, 50 mg | BrC1=C(OCC(=O)N(NC(C2=CC=CC=C2)=O)C(C)C)C=CC(=C1)F | C18H18BrFN2O3
reactant | Na2CO3 | 0.427 mmol, 2M, 0.215 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-isopropoxylphenylboronic acid | 0.183 mmol, 32 mg | O(C(C)C)C1=C(C=CC=C1)B(O)O | C9H13BO3
solvent | DME | 3 ml | COCCOC | C4H10O2
product | benzoic acid N′-[2-(5-fluoro-2′-isopropoxy-biphenyl-2-yloxy)-acetyl]-N′-isopropyl-hydrazide | 22 mg, 38% | FC=1C=CC(=C(C1)C1=C(C=CC=C1)OC(C)C)OCC(=O)N(NC(C1=CC=CC=C1)=O)C(C)C | C27H29FN2O4
